US07514460B2
N-[2-(6,7-Dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl ]benzamide was prepared from benzoyl chloride (14 μL, 0.113 mmol) and N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine (40 mg, 0.113 mmol) according to GP 2 (yellowish solid, 40 mg, 87 mmol, 77%). LC/ESI-MS: m/z=458 [M+H]+; m/z=456 [M−H]−; Rt=3.13 min.

reactant | benzoyl chloride | 0.113 mmol, 14 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N2-(6,7-dimethoxyquinazolin-4-yl)benzothiazole-2,6-diamine | 0.113 mmol, 40 mg | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)N | C17H15N5O2S
product | N-[2-(6,7-Dimethoxyquinazolin-4-ylamino)benzothiazol-6-yl ]benzamide | COC=1C=C2C(=NC=NC2=CC1OC)NC=1SC2=C(N1)C=CC(=C2)NC(C2=CC=CC=C2)=O | C24H19N5O3S
